US08609715B2
Synthesis of 4-amidino-2-nitrophenol hydrochloride (M-8)
4-Amidinophenol hydrochloride (1.0 g, 5.8 mmol) was dissolved in concentrated sulfuric acid (2.5 mL), and concentrated nitric acid (0.38 mL) was added at −15° C. The reaction mixture was stirred for 1 hour while maintaining the temperature of the reaction mixture at −15° C. to −2° C., and slowly added to ice water. The mixture was neutralized by slowly adding sodium hydrogen carbonate, and the precipitated orange solid was collected by filtration. The solid was washed with water and acetone, and suspended in methanol. 4N Hydrochloric acid/dioxane was added to dissolve the solid. Diisopropyl ether was added to the solution, and the precipitated solid was collected by filtration. The solid was washed with diisopropyl ether and dried to give the title compound (0.98 g) as a pale-yellow powder.

reactant | 4-Amidinophenol hydrochloride | 5.8 mmol, 1.0 g | Cl.C(N)(=N)C1=CC=C(C=C1)O
reactant | nitric acid | 0.38 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
product | 4-amidino-2-nitrophenol hydrochloride | 0.98 g | Cl.C(N)(=N)C1=CC(=C(C=C1)O)[N+](=O)[O-] | InChI=1S/C7H7N3O3.ClH/c8-7(9)4-1-2-6(11)5(3-4)10(12)13;/h1-3,11H,(H3,8,9);1H
